US06878721B1
2,2,2-Trifluoro-N-(2-methyl-1-oxo-indan-2-yl)-acetamide
2-Amino-2-methyl-indan-1-one (16.4 g) in THF (100 mL) is cooled to 0° C. under nitrogen. Triethylamine (21 ml) is added followed by slow addition of trifluoroacetic anhydride (18.5 ml). The reaction is stirred at room temperature overnight then the solvents are removed. The residue is dissolved in dichloromethane and washed with aqueous HCl followed by aqueous NaOH. The organic extract is dried (MgO4) and the solvent is removed. The product is purified by chromatography (silica, ethyl acetate) to give a cream solid.

reactant | 2-Amino-2-methyl-indan-1-one | 16.4 g | NC1(C(C2=CC=CC=C2C1)=O)C | C10H11NO
reactant | Triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 18.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-N-(2-methyl-1-oxo-indan-2-yl)-acetamide | FC(C(=O)NC1(C(C2=CC=CC=C2C1)=O)C)(F)F | C12H10F3NO2
